US05994598
Perillyl alcohol can be produced by reacting limonene with selenium dioxide (that is toxic) and other oxidants (that are difficult to work with i.e., anhydrous chromium trioxide) to yield various oxidation products, including a small amount of perillaldehyde. Once isolated, perillaldehyde is reduced to afford perillyl alcohol. While this two-step process is conceptually attractive, the oxidation of limonene to give perillyl alcohol proceeds in a low overall yield.

reactant | limonene | CC1=CC[C@@H](CC1)C(=C)C | C10H16
reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | perillaldehyde | CC(=C)C1CCC(=CC1)C=O | C10H14O
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | perillyl alcohol | CC(=C)[C@H]1CCC(=CC1)CO | C10H16O
